datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCCC[NH:10]C.[O-]c1ccccc1[O:21][H:20]>>CCCC[NH+:10](C)[H:20].[O-]c1ccccc1[O-:21] 10=20;20,21=21",
"CC(C)[NH:10]CCc1ccc([O-])cc1.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CC(C)[NH+:10](CCc1ccc([O-])cc1)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CC[SH+]C(O)(C(F)(F)F)[O-:10].COc1ccc(C[NH2+:21][H:20])cc1>>CC[SH+]C(O)(C(F)(F)F)[O:10][H:20].COc1ccc(C[NH2:21])cc1 10=20;20,21=21",
"Cc1c[n+:21]([H:20])c2cccc([N+](=O)[O-])c2c1NCCC[NH+](C)C.Cc1cccc(OC(CBr)(c2ccccc2)[O-:10])c1>>Cc1c[n:21]c2cccc([N+](=O)[O-])c2c1NCCC[NH+](C)C.Cc1cccc(OC(CBr)(c2ccccc2)[O:10][H:20])c1 10=20;20,21=21",
"CC(C)(C)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(Cl)C=C2)[H:20])C=C1>>CC(C)(C)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(Cl)C=C2)C=C1 10=20;20,21=21",
"CC(C)(CN)C[NH2:10].OCCn1c[n+:21]([H:20])c2ccccc21>>CC(C)(CN)C[NH2+:10][H:20].OCCn1c[n:21]c2ccccc21 10=20;20,21=21",
"O=C([O-])c1cc2ccccc2cc1[O-:10].c1ccc(C[NH2+]CC[S:21][H:20])cc1>>O=C([O-])c1cc2ccccc2cc1[O:10][H:20].c1ccc(C[NH2+]CC[S-:21])cc1 10=20;20,21=21",
"CCCC[NH+:21](Cc1ccc(C)cc1)[H:20].CS(=O)(=O)[N-:10]C(N)=O>>CCCC[NH:21]Cc1ccc(C)cc1.CS(=O)(=O)[N:10](C(N)=O)[H:20] 10=20;20,21=21",
"O=[PH]([O-])C(c1ccccc1O)[NH+:21](Cc1cccnc1)[H:20].c1ccc(Cc2nc(-c3ccccc3)oc2[O-:10])cc1>>O=[PH]([O-])C(c1ccccc1O)[NH:21]Cc1cccnc1.c1ccc(Cc2nc(-c3ccccc3)oc2[O:10][H:20])cc1 10=20;20,21=21",
"CC(CO)C[N:10](C)C.c1ccc2sc(-c3ccc([NH2+:21][H:20])cc3)nc2c1>>CC(CO)C[N+:10](C)(C)[H:20].c1ccc2sc(-c3ccc([NH2:21])cc3)nc2c1 10=20;20,21=21",
"CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1.C[C@@H]1CNC[C@H](C)[NH:10]1>>CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1.C[C@@H]1CNC[C@H](C)[NH+:10]1[H:20] 10=20;20,21=21",
"C[C@@H]1CNC[C@H](C)[NH:10]1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>C[C@@H]1CNC[C@H](C)[NH+:10]1[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC(C)(O[O-:10])c1ccccc1.CCC(P)C(=O)[O:21][H:20]>>CC(C)(O[O:10][H:20])c1ccccc1.CCC(P)C(=O)[O-:21] 10=20;20,21=21",
"CC1CN(C)CC[N:10]1C.Cc1nc([N+](=O)[O-])c[n:21]1[H:20]>>CC1CN(C)CC[N+:10]1(C)[H:20].Cc1nc([N+](=O)[O-])c[n-:21]1 10=20;20,21=21",
"O=C([O-])Cc1ccc([NH2:10])cc1.c1c[nH+]cc(-c2ccc[n+:21]([H:20])c2)c1>>O=C([O-])Cc1ccc([NH2+:10][H:20])cc1.c1c[nH+]cc(-c2ccc[n:21]c2)c1 10=20;20,21=21",
"Cc1cc(-c2cc(C)[n:10][nH]2)[nH][nH+]1.Cc1cccc(C(=O)[O:21][H:20])c1I>>Cc1cc(-c2cc(C)[n+:10]([H:20])[nH]2)[nH][nH+]1.Cc1cccc(C(=O)[O-:21])c1I 10=20;20,21=21",
"CC1(C)CC([N:10](C)C)CC(C)(C)[NH2+]1.CCO/C([O-])=N/c1ncnc2nc[n:21]([H:20])c12>>CC1(C)CC([N+:10](C)(C)[H:20])CC(C)(C)[NH2+]1.CCO/C([O-])=N/c1ncnc2nc[n-:21]c12 10=20;20,21=21",
"COC(=O)c1ccccc1[S:21][H:20].O=C(/C=C/c1ccccc1)C(=O)[O-:10]>>COC(=O)c1ccccc1[S-:21].O=C(/C=C/c1ccccc1)C(=O)[O:10][H:20] 10=20;20,21=21",
"CC([NH3+])c1nnn[n-:10]1.O=[N+]([O-])c1cccc(S(=O)(=O)[N:21](c2ccccc2)[H:20])c1>>CC([NH3+])c1nnn[n:10]1[H:20].O=[N+]([O-])c1cccc(S(=O)(=O)[N-:21]c2ccccc2)c1 10=20;20,21=21",
"CC#C/C=C/C(=O)[O:21][H:20].Oc1cccc2c1ccc[n:10]2>>CC#C/C=C/C(=O)[O-:21].Oc1cccc2c1ccc[n+:10]2[H:20] 10=20;20,21=21",
"CC(C)[N+:21](CCO)(C(C)C)[H:20].CCNc1nc(NCC)[n:10]c(NCC)n1>>CC(C)[N:21](CCO)C(C)C.CCNc1nc(NCC)[n+:10]([H:20])c(NCC)n1 10=20;20,21=21",
"COC(=O)c1nccc[n:10]1.Oc1cccc2c1ccn[n+:21]2[H:20]>>COC(=O)c1nccc[n+:10]1[H:20].Oc1cccc2c1ccn[n:21]2 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC(Cc1ccc2c(c1)OCO2)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC(Cc1ccc2c(c1)OCO2)[NH2+:10][H:20] 10=20;20,21=21",
"Cc1cccc(C)c1NC(=O)C[NH+:21](CC(C)C)[H:20].NC1=[NH+]C(CC(=O)O)C(=O)N1CCCC([NH3+])C(=O)[O-:10]>>Cc1cccc(C)c1NC(=O)C[NH:21]CC(C)C.NC1=[NH+]C(CC(=O)O)C(=O)N1CCCC([NH3+])C(=O)[O:10][H:20] 10=20;20,21=21",
"Nc1cc[nH+]c2c1ncn2CCOCP(=O)([O-])[O:21][H:20].OB(O)c1ccccc1[NH2:10]>>Nc1cc[nH+]c2c1ncn2CCOCP(=O)([O-])[O-:21].OB(O)c1ccccc1[NH2+:10][H:20] 10=20;20,21=21",
"CN(C)CCCN(C)CCC[N+:21](C)(C)[H:20].Cc1c[n:10]c2c(ccc3c(C)ccnc32)c1C>>CN(C)CCCN(C)CCC[N:21](C)C.Cc1c[n+:10]([H:20])c2c(ccc3c(C)ccnc32)c1C 10=20;20,21=21",
"CN(C)C(C)(O)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C([N+](=O)[O-])C=C2)[H:20])C=C1>>CN(C)C(C)(O)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C([N+](=O)[O-])C=C2)C=C1 10=20;20,21=21",
"CCCCCCCCCCCC[NH:10]CCC(=O)[O-].[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CCCCCCCCCCCC[NH+:10](CCC(=O)[O-])[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1cc(CCC[NH2:10])ccn1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1cc(CCC[NH2+:10][H:20])ccn1 10=20;20,21=21",
"CCCC(C)C1(CC)C(=O)NC(=O)[N-:10]C1=O.c1csc(-c2scc[n+:21]2[H:20])n1>>CCCC(C)C1(CC)C(=O)NC(=O)[N:10]([H:20])C1=O.c1csc(-c2scc[n:21]2)n1 10=20;20,21=21",
"CCCCS(=O)[O:21][H:20].c1ccc(-c2ccccc2[O-:10])cc1>>CCCCS(=O)[O-:21].c1ccc(-c2ccccc2[O:10][H:20])cc1 10=20;20,21=21",
